US08309580B2
(1) 4-[(cyclohexyl{5-[6-(2-methoxyethoxy)pyridin-3-yl]-2-methylfuran-3-yl}methyl)amino]benzoic acid
Methyl 4-({cyclohexyl[5-(6-fluoropyridin-3-yl)-2-methylfuran-3-yl]methyl}amino)benzoate (1.9 g) was dissolved in 2-methoxyethanol (5 mL) and tetrahydrofuran (5 mL), 2N lithium hydroxide (5 mL) was added, and the mixture was stirred overnight at 80° C. The reaction mixture was poured into water, and the mixture was acidified with 1N hydrochloric acid and extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried over magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel chromatography (20% ethyl acetate/hexane to 40% ethyl acetate/hexane) to give the title compound (0.9 g, 42%) as an amorphous compound.

reactant | Methyl 4-({cyclohexyl[5-(6-fluoropyridin-3-yl)-2-methylfuran-3-yl]methyl}amino)benzoate | 1.9 g | C1(CCCCC1)C(C1=C(OC(=C1)C=1C=NC(=CC1)F)C)NC1=CC=C(C(=O)OC)C=C1 | C25H27FN2O3
reactant | lithium hydroxide | 2N, 5 mL | [OH-].[Li+]
reactant | water | O | H2O
reactant | hydrochloric acid | 1N | Cl | ClH
reactant | 2-methoxyethanol | 5 mL | COCCO | C3H8O2
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 4-[(cyclohexyl{5-[6-(2-methoxyethoxy)pyridin-3-yl]-2-methylfuran-3-yl}methyl)amino]benzoic acid | 0.9 g, 42% | C1(CCCCC1)C(C1=C(OC(=C1)C=1C=NC(=CC1)OCCOC)C)NC1=CC=C(C(=O)O)C=C1 | C27H32N2O5
